US07728025B2
(Step 4) Production of N-(4-benzyloxy-5-(2-fluorophenoxy)-2-nitrophenyl)pyrazinecarboxamide
0.54 ml of 2-fluorophenol and 2.53 g of potassium carbonate were added to a dimethylformamide (16 ml) solution of 2.14 g of N-(4-benzyloxy-5-fluoro-2-nitrophenyl)pyrazinecarboxamide, and the reaction liquid was stirred at 90° C. for 5 hours, and then water was added to it. The resulting deposit was taken out through filtration to obtain the entitled compound as a yellow solid.

reactant | 2-fluorophenol | 0.54 ml | FC1=C(C=CC=C1)O | C6H5FO
reactant | potassium carbonate | 2.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
reactant | N-(4-benzyloxy-5-fluoro-2-nitrophenyl)pyrazinecarboxamide | 2.14 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1F)NC(=O)C1=NC=CN=C1)[N+](=O)[O-] | C18H13FN4O4
solvent | water | O | H2O
product | N-(4-benzyloxy-5-(2-fluorophenoxy)-2-nitrophenyl)pyrazinecarboxamide | C(C1=CC=CC=C1)OC1=CC(=C(C=C1OC1=C(C=CC=C1)F)NC(=O)C1=NC=CN=C1)[N+](=O)[O-] | C24H17FN4O5
